US06723745B2
4-cyclohexyloxybut-1-yne
To a tetrahydrofuran solution (130 ml) of 4-cyclohexyloxy-1,1-dibromobut-1-ene (12.6 g, 40.4 mmol) obtained above, was added dropwise under a nitrogen atmosphere at −78° C. the hexane solution of 1.5N n-butyllithium (54 ml, 81.0 mmol). After the end of dropping, the reaction solution was stirred for 1 hour, and then warmed up gradually to room temperature. After the reaction solution was stirred at room temperature for 50 minutes, water was added thereto in the ice bath to terminate the reaction. The resulting reaction solution was extracted with diethyl ether, and the diethyl ether layer was washed with the saturated aqueous sodium chloride solution. The diethyl ether layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by chromatography on a silica gel column (elution solvent; hexane:ethyl acetate=100:1-50:1) to give the title compound (4.35 g, 71% yield).

reactant | hexane | CCCCCC | C6H14
reactant | n-butyllithium | 81.0 mmol, 1.5N, 54 ml | C(CCC)[Li]
reactant | water | O | H2O
product | 4-cyclohexyloxybut-1-yne | 4.35 g, 71% yield | C1(CCCCC1)OCCC#C | C10H16O
